US04898863
N,N-Dimethylformamide (DMF)(20 ml) was cooled to 0° under an atmosphere of nitrogen and treated cautiously with phosphorus oxychloride (6.6 ml). This solution was stirred at 0° for 15 minutes, warmed to room temperature, and treated with a solution of 6-(N-cyclopentylmethylcarbamoyl)indole (14.3 g) in DMF (100 ml). The yellow mixture was stirred for 2 hours and then brought to pH 14 by the addition of ice and 20% (w/v) aqueous sodium hydroxide. The mixture was heated to reflux for 5 minutes and allowed to cool. The precipitate which formed was collected by filtration and triturated with ether to give 6-(N-cyclopentylmethylcarbamoyl)-3-formylindole (9.6 g, 60%) as a tan powder; mp 224°-225°.

reactant | phosphorus oxychloride | 6.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-(N-cyclopentylmethylcarbamoyl)indole | 14.3 g | C1(CCCC1)CNC(=O)C1=CC=C2C=CNC2=C1 | C15H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 100 ml | CN(C=O)C | C3H7NO
reactant | N,N-Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(N-cyclopentylmethylcarbamoyl)-3-formylindole | 9.6 g, 60% | C1(CCCC1)CNC(=O)C1=CC=C2C(=CNC2=C1)C=O | C16H18N2O2
